US09125414B2
3-Cyclopropyl-isoxazole-4-carboxylic acid pyridin-3-ylamide
400 mg (2.6 mmol) of 3-cyclopropyl-isoxazole-4-carboxylic acid were suspended in 10 mL of toluene and one drop of dimethylformamide was added to the mixture. 0.24 mL of thionylchloride (3.3 mmol) were added at room temperature and the reaction mixture was stirred at 65° C. for two hours. After removal of the solvent, toluene was added and the evaporation was repeated. The obtained residue was then dissolved in 5 mL of dichloromethane and the solution was added dropwise to a solution containing 246 mg pyridin-3-ylamine (2.6 mmol) and 0.45 ml triethyl amine (3.3 mmol) in 5 ml dichloromethane. The mixture was stirred at room temperature for 16 h and the solvent was removed under vacuum. The residue was purified by flash column chromatography (silica, gradient elution cyclohexane→ethyl acetate→methanol) and the solvent was removed under vacuum to give 436 mg (69%, 95% purity) of the title compound as a brown solid.

reactant | 3-cyclopropyl-isoxazole-4-carboxylic acid | 2.6 mmol, 400 mg | C1(CC1)C1=NOC=C1C(=O)O | C7H7NO3
reactant | thionylchloride | 3.3 mmol, 0.24 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridin-3-ylamine | 2.6 mmol, 246 mg | N1=CC(=CC=C1)N | C5H6N2
reactant | triethyl amine | 3.3 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-Cyclopropyl-isoxazole-4-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)C=1C(=NOC1)C1CC1 | C12H11N3O2
